US05856510
(R)-3-(N-Benzyloxycarbonylpyrrolidin-2-ylcarbonyl)-5-bromo-1H-indole
N-Benzyloxycarbonyl-R-proline acid chloride from the above reaction was dissolved in anhydrous diethyl ether (30 mL) and added at 0° C. to a solution of 5-bromoindole (2.9 g, 15.0 mmol) and t-butylmagnesium chloride (2M solution in diethyl ether, 8.3 mL, 16.5 mmol) in anhydrous diethyl ether (30 mL). The resulting mixture was stirred at room temperature under argon for 45 minutes and then ethyl acetate (150 mL) and saturated sodium bicarbonate (30 mL) were added. The organic layer was dried and evaporated under reduced pressure to provide a yellow oil. The title compound was crystallized using hexane/ethyl acetate (9:1) to provide a white solid (3.07 g, 72%). mp 95°-96° C.

reactant | 5-bromoindole | 15.0 mmol, 2.9 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | t-butylmagnesium chloride | 16.5 mmol, 2M, 8.3 mL | C(C)(C)(C)[Mg]Cl
reactant | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate | 30 mL | C([O-])(O)=O.[Na+]
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
product | (R)-3-(N-Benzyloxycarbonylpyrrolidin-2-ylcarbonyl)-5-bromo-1H-indole | 3.07 g, 72% | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)C(=O)C1=CNC2=CC=C(C=C12)Br | C21H19BrN2O3
